US07601856B2
Following the procedure of Example 40, 2-chloro-N-7,8,9,10-tetrahydro-6H-benzo[b]cyclohepta[d]furan-2-ylacetamide (0.13 g, 0.45 mmol), 2-(methylamino)ethanol (0.045 mL, 0.56 mmol), and cesium carbonate (0.29 g, 0.90 mmol) in acetonitrile (5 mL) provided N2-(2-hydroxyethyl)-N2-methyl-N1-7,8,9,10-tetrahydro-6H-benzo[b]cyclohepta[d]furan-2-ylglycinamide (0.022 g) as its trifluroacetic acid salt after reverse-phase HPLC purification. MS (ESI) m/z 317 ([M+H]+); MS (ESI) m/z 315 ([M−H]−).

reactant | 2-chloro-N-7,8,9,10-tetrahydro-6H-benzo[b]cyclohepta[d]furan-2-ylacetamide | 0.45 mmol, 0.13 g | ClCC(=O)NC1=CC2=C(OC3=C2CCCCC3)C=C1 | C15H16ClNO2
reactant | 2-(methylamino)ethanol | 0.56 mmol, 0.045 mL | CNCCO | C3H9NO
reactant | cesium carbonate | 0.90 mmol, 0.29 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | trifluroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | N2-(2-hydroxyethyl)-N2-methyl-N1-7,8,9,10-tetrahydro-6H-benzo[b]cyclohepta[d]furan-2-ylglycinamide | 0.022 g | OCCN(CC(=O)NC1=CC2=C(OC3=C2CCCCC3)C=C1)C | C18H24N2O3
